US07135466B2
N-[(5-Bromo-2-thienyl)carbonyl]-N′-{3-chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 5-bromo-2-thiophenecarboxylic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 5-bromo-2-thiophene isothiocyanate was prepared using the resultant 5-bromo-2-thiophenecarbonyl chloride as a starting compound according to the description of the literature. 5-Bromo-2-thiophenecarbonyl isothiocyanate was dissolved in ethanol (1 ml) to prepare a solution. 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline (50 mg), toluene (5 ml), and ethanol (1 ml) were added to the solution, and the mixture was stirred at room temperature for 18 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (65 mg, yield 75%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-bromo-2-thiophenecarboxylic acid | 80 mg | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | 5-bromo-2-thiophenecarbonyl chloride | BrC1=CC=C(S1)C(=O)Cl | C5H2BrClOS
reactant | 5-Bromo-2-thiophenecarbonyl isothiocyanate | BrC1=CC=C(S1)C(=O)N=C=S | C6H2BrNOS2
reactant | 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline | 50 mg | ClC=1C=C(N)C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C17H15ClN2O3
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(5-Bromo-2-thienyl)carbonyl]-N′-{3-chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}thiourea | 65 mg, yield 75% | BrC1=CC=C(S1)C(=O)NC(=S)NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)Cl | C23H17BrClN3O4S2
